US09255089B2
N-Boc-pyrrolidine (150 mg, 0.39 mmol) and TMEDA (0.2 mL, 158 mg, 1.36 mmol) was dissolved in dry MeTHF (2.6 mL) under Ar and cooled to −78° C. Sec-BuLi (1.4M, 0.97 mL, 1.36 mmol) was added dropwise and the reaction was allowed to stir at −78° C. for 40 mins. tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-formyl-1H-benzo[d]imidazole-1-carboxylate (150 mg, 0.39 mmol) was dissolved in MeTHF (0.5 mL) and added dropwise via syringe to the reaction and allowed to stir at −78° C. for 10 minutes. The reaction was quenched with water and extracted three times with EtOAc, combined organic layers were washed once with brine, concentrated, and purified by reverse-phase HPLC to give tert-butyl 2-((6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(hydroxy)methyl)pyrrolidine-1-carboxylate (53 mg, 30%) as a white powder. The solid (50 mg, 0.11 mmol) was dissolved in EtOH (5 mL) and HCl (1 mL) and heated for 12 hours at 65° C. The reaction was cooled and concentrated to afford the desired product as a white powder.

reactant | N-Boc-pyrrolidine | 0.39 mmol, 150 mg | C(=O)(OC(C)(C)C)N1CCCC1 | C9H17NO2
reactant | TMEDA | 1.36 mmol, 0.2 mL, 158 mg | CN(C)CCN(C)C | C6H16N2
reactant | Sec BuLi | 1.36 mmol, 1.4M, 0.97 mL | N[C@@H](C[SeH])C(=O)O.[Li]CCCC
reactant | tert-butyl 6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-4-formyl-1H-benzo[d]imidazole-1-carboxylate | 0.39 mmol, 150 mg | CC1=NOC(=C1C=1C=C(C2=C(N(C(=N2)OCC)C(=O)OC(C)(C)C)C1)C=O)C | C20H23N3O5
solvent | MeTHF | 2.6 mL | CC1CCCO1 | C5H10O
solvent | MeTHF | 0.5 mL | CC1CCCO1 | C5H10O
product | tert-butyl 2-((6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(hydroxy)methyl)pyrrolidine-1-carboxylate | 53 mg, 30% | CC1=NOC(=C1C=1C=C(C2=C(NC(=N2)OCC)C1)C(C1N(CCC1)C(=O)OC(C)(C)C)O)C | C24H32N4O5
